US07691850B2
a) 1,1-dimethylethyl 3-cyano-3-methyl-4-oxo-1-pyrrolidinecarboxylate
To a solution of 1,1-dimethylethyl 3-cyano-4-oxo-1-pyrrolidinecarboxylate (3.9 g, 18.6 mmol) in acetone (185 mL) were added K2CO3 (3.07 g, 22.3 mmol) and MeI (1.39 mL, 22.3 mmol). After 12 h at reflux, the solution was cooled and the solid precipitate filtered. The filtrate was then concentrated and the residue purified by column chromatography (silica, 0.5% MeOH in DCM (1% NH4OH)) affording the title compound (2.3 g, 55%) as a yellow oil: LCMS (ES) m/e 225 (M+H)+.

reactant | 1,1-dimethylethyl 3-cyano-4-oxo-1-pyrrolidinecarboxylate | 18.6 mmol, 3.9 g | C(#N)C1CN(CC1=O)C(=O)OC(C)(C)C | C10H14N2O3
reactant | K2CO3 | 22.3 mmol, 3.07 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 22.3 mmol, 1.39 mL | CI | CH3I
solvent | acetone | 185 mL | CC(=O)C | C3H6O
product | 1,1-dimethylethyl 3-cyano-3-methyl-4-oxo-1-pyrrolidinecarboxylate | 2.3 g, 55% | C(#N)C1(CN(CC1=O)C(=O)OC(C)(C)C)C | C11H16N2O3
